US07696229B2
3. Synthesis of 1-acetyl-1H-indol-3-yl acetate
Into a 500 mL round bottom flask was placed a solution of 1H-indol-3-yl acetate (8 g, 45.69 mmol) in tetrahydrofuran (150 mL). To this was added acetic anhydride (46.6 g, 456.86 mmol). Addition of triethylamine (9.25 g, 91.49 mmol) was next. To the mixture was added DMAP (1.11 g, 9.10 mmol). The resulting solution was allowed to react, with stirring, for 3 hours while the temperature was maintained at reflux in a bath of oil. The reaction progress was monitored by TLC (ethyl acetate/petroleum ether=1:2). The mixture was concentrated by evaporation under vacuum using a rotary evaporator. The resulting solution was diluted with 300 mL of ethyl acetate The resulting mixture was washed 2 times with 150 mL of NaCl(aq.). The mixture was dried over Na2SO4. The residue was purified by eluting through a column with a 20:1 petroleum ether/ethyl acetate solvent system. This resulted in 6.6 g (67%) of 1-acetyl-1H-indol-3-yl acetate as a white solid.

reactant | 1H-indol-3-yl acetate | 45.69 mmol, 8 g | C(C)(=O)OC1=CNC2=CC=CC=C12 | C10H9NO2
reactant | acetic anhydride | 456.86 mmol, 46.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 91.49 mmol, 9.25 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
catalyst | DMAP | 9.10 mmol, 1.11 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-acetyl-1H-indol-3-yl acetate | C(C)(=O)OC1=CN(C2=CC=CC=C12)C(C)=O | C12H11NO3
